US04567199
A mixture of (±)-cis-1-chlorocarbonyl-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane (0.82 g), 2-chloro-6-fluorobenzyl alcohol (1.0 g), pyridine (0.275 g) and dry toluene (50 ml) was stirred at the ambient temperature (ca. 25° C.) for a period of 6 hours and then kept for a further period of 72 hours without stirring. The mixture was diluted with diethyl ether (350 ml) and the resultant mixture washed with water, with dilute aqueous sodium carbonate solution, and then dried over anhydrous magnesium sulphate. The solvents were evaporated and the residual oil purified by preparative thick layer chromatography using silica gel plates and diethyl ether as eluent. The oil which was obtained was then distilled to yield 2-chloro-6-fluorobenzyl(±)-cis-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylate (0.67 g) b.p. 150°/0.05 mm Hg.

reactant | (±)-cis-1-chlorocarbonyl-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane | 0.82 g | ClC(=O)[C@@H]1C([C@@H]1\C=C(\C(F)(F)F)/Cl)(C)C | C9H9Cl2F3O
reactant | 2-chloro-6-fluorobenzyl alcohol | 1.0 g | ClC1=C(CO)C(=CC=C1)F | C7H6ClFO
reactant | pyridine | 0.275 g | N1=CC=CC=C1 | C5H5N
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 350 ml | C(C)OCC | C4H10O
product | 2-chloro-6-fluorobenzyl(±)-cis-3-(Z-2-chloro-3,3,3-trifluoroprop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylate | 0.67 g | Cl\C(=C/[C@H]1C([C@H]1C(=O)OCC1=C(C=CC=C1F)Cl)(C)C)\C(F)(F)F | C16H14Cl2F4O2
